US07939533B2
(S)-(2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-[3-(ethyl-methanesulfonyl-amino)-pyrrolidin-1-yl]-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 150 mg (0.227 mmol) (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonylamino-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide in 1 ml dimethylformamide were added 14 mg (0.35 mmol) sodium hydride (60% dispersion in mineral oil). After stirring at room temperature for 30 min. 22 mg (0.27 mmol) iodoethane were added. The reaction mixture was stirred at room temperature for 18 h, followed by dilution with 10 ml tert-butyl methyl ether and washing with 20 ml water and with 10 ml of a saturated aqueous solution of sodium carbonate. The combined organic layers were dried over sodium sulfate, concentrated and purified by flash chromatography to give 86 mg (55%) of the title compound as an off-white foam.

reactant | (S)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(3-methanesulfonylamino-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.227 mmol, 150 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C[C@H](CC1)NS(=O)(=O)C)(C)C)(F)F | C30H31F7N4O3S
reactant | sodium hydride | 0.35 mmol, 14 mg | [H-].[Na+]
reactant | iodoethane | 0.27 mmol, 22 mg | ICC | C2H5I
reactant | tert-butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-[3-(ethyl-methanesulfonyl-amino)-pyrrolidin-1-yl]-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 86 mg, 55% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CC(CC1)N(S(=O)(=O)C)CC)(C)C)(F)F | C32H35F7N4O3S
